US07282501B2
Step D: 3-[3-(tert-Butoxycarbonylamino-methyl)-4-hydroxy-phenyl]-propionic acid methyl ester
A solution of 3-[4-benzyloxy-3-(tert-butoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester (8.50 g, 21.3 mmol) in THF (100 mL) was treated with 5% Pd-on-carbon (1.1 g) and shaken under a hydrogen atmosphere (60 psi) at ambient temperature for 6 h. The mixture was filtered through Celite and concentrated to a pale yellow solid (5.63 g, 85%).

reactant | 3-[4-benzyloxy-3-(tert-butoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | 21.3 mmol, 8.50 g | COC(CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)CNC(=O)OC(C)(C)C)=O | C23H29NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-[3-(tert-Butoxycarbonylamino-methyl)-4-hydroxy-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=C(C=C1)O)CNC(=O)OC(C)(C)C)=O | C16H23NO5
